US08580780B2
4-(3,3-Dimethyl-butyryl)-2-fluoro-benzylamine
4-Bromo-N-(tert-butoxycarbonyl-2-fluoro-benzylamine: Add triethylamine (6.334g, 8.8,mL, 52.6 mmol) and di-tert-butyl-dicarbonate (4.54 g, 20.8 mmol) to a solution of 4-bromo-2-fluoro-benzylamine hydrochloride (5 g, 20.8 mmol) in dichloromethane (254 mL) and stir overnight. Wash the organic layer with water and then extract back the aqueous phase with dichloromethane. Dry the combined organic extracts over Na2SO4, filter and concentrate in vacuo to obtain the desired intermediate as a white solid (6.11 g, 97%).

reactant | tert-butoxycarbonyl-2-fluoro-benzylamine | C(C)(C)(C)OC(=O)NCC1=C(C=CC=C1)F | C12H16FNO2
reactant | triethylamine | 52.6 mmol, 6.334g | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyl-dicarbonate | 20.8 mmol, 4.54 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 4-bromo-2-fluoro-benzylamine hydrochloride | 20.8 mmol, 5 g | Cl.BrC1=CC(=C(CN)C=C1)F
solvent | dichloromethane | 254 mL | ClCCl | CH2Cl2
product | 4-(3,3-Dimethyl-butyryl)-2-fluoro-benzylamine | 6.11 g, 97% | CC(CC(=O)C1=CC(=C(CN)C=C1)F)(C)C | C13H18FNO
